US08378104B2
Step G: 4-iodo-2-([1,2]thiazolo[4,5-c]pyridin-7-yl)furo[2,3-c]pyridin-7-amine
A mixture of {7-[bis(tert-butoxycarbonyl)amino]furo[2,3-c]pyridin-2-yl}boronic acid (82.6 mg, 0.219 mmol), 7-bromo[1,2]thiazolo[4,5-c]pyridine (47.0 mg, 0.218 mmol), Pd(PPh3)4 (12.6 mg, 0.0109 mmol), and potassium carbonate (90.6 mg, 0.656 mmol) in 4:1 1,4-dioxane:water (2 mL) was heated to 70° C. for 30 min. Aqueous 12 N hydrochloric acid (0.3 mL, 3 mmol) and methanol (6 mL) was added at 70° C., and the solution was stirred for 2 h. The organic solvents were removed in vacuo, and the material was extracted with DCM and saturated aqueous sodium bicarbonate. The organic layer was purified by column chromatography (1 to 3% 7 N ammonia/methanol:DCM). The purified intermediate was treated with NIS (15.0 mg, 0.0667 mmol) in DMF (1 mL), and the mixture was heated to 40° C. for 20 min. The material was extracted with EtOAc, and washed with aqueous 1 M sodium thiosulfate and brine (2×). The organic layer was concentrated in vacuo to afford 15 mg (17%) of the title compound as a yellow solid. MS (ESI): 395.39 [M+H]+; HPLC tR=1.06 min (HPLC: polar—2 min).

reactant | {7-[bis(tert-butoxycarbonyl)amino]furo[2,3-c]pyridin-2-yl}boronic acid | 0.219 mmol, 82.6 mg | C(C)(C)(C)OC(=O)N(C=1N=CC=C2C1OC(=C2)B(O)O)C(=O)OC(C)(C)C | C17H23BN2O7
reactant | 7-bromo[1,2]thiazolo[4,5-c]pyridine | 0.218 mmol, 47.0 mg | BrC=1C2=C(C=NC1)C=NS2 | C6H3BrN2S
reactant | potassium carbonate | 0.656 mmol, 90.6 mg | C([O-])([O-])=O.[K+].[K+]
reactant | hydrochloric acid | 3 mmol, 12 N, 0.3 mL | Cl | ClH
reactant | NIS | 0.0667 mmol, 15.0 mg | C1CC(=O)N(C1=O)I | C4H4INO2
solvent | DMF | 1 mL | CN(C)C=O | C3H7NO
catalyst | Pd(PPh3)4 | 0.0109 mmol, 12.6 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
solvent | methanol | 6 mL | CO | CH4O
solvent | water | 2 mL | O | H2O
solvent | 1,4-dioxane | O1CCOCC1 | C4H8O2
product | 4-iodo-2-([1,2]thiazolo[4,5-c]pyridin-7-yl)furo[2,3-c]pyridin-7-amine | 15 mg, 17% | IC1=C2C(=C(N=C1)N)OC(=C2)C=2C1=C(C=NC2)C=NS1 | C13H7IN4OS
